US07402595B2
A mixture of 6-chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid (210 mg), O-n-butylhydroxylamine (620 mg) and ethanol (8.4 ml) was stirred for 12 hrs. at 90° C. in a sealed tube. After cooling, the reaction mixture was concentrated under reduced pressure to give 2-butoxy-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid.

reactant | 6-chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid | 210 mg | ClC=1C=C2C(=C(OC(C2=CC1)=O)C(=O)O)C1=CC=CC=C1 | C16H9ClO4
reactant | O-n-butylhydroxylamine | 620 mg | C(CCC)ON | C4H11NO
solvent | ethanol | 8.4 ml | C(C)O | C2H6O
product | 2-butoxy-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | C(CCC)ON1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Cl)=O | C20H18ClNO4
